US04303655
A solution of 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-hydroxy-2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(5-methyl-1,3,4-thiadizol-2-yl)thiomethyl-7-[2-hydroxy-2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (2.30 g.) in 98% formic acid (25 ml.) was stirred for 2.5 hours at room temperature. After the reaction, formic acid was distilled off under reduced pressure. The residue was pulverized in acetonitrile (25 ml.), collected by filtration, washed with a small amount of acetonitrile and then dissolved in 5% sodium bicarbonate aqueous solution (14 ml.). The solution was adjusted to pH 6 with acetic acid and subjected to alumina column chromatography by using pH 5.0 acetate buffer as an eluent. The eluate containing the object compound (300 ml.) was adjusted to pH 3 with 10% hydrochloric acid and then washed twice with ethyl acetate (50 ml.). The aqueous layer was subjected to column chromatography (Amberlite XAD-4 prepared by Rohm & Haas Co.), and the column was washed with water and then eluted with 20% methanol aqueous solution (100 ml.), 50% methanol aqueous solution (100 ml.) and 70% methanol aqueous solution (400 ml.) in turn. The eluates containing the object compound (500 ml.) were collected and then methanol was distilled off at 30° to 35° C. under reduced pressure. The remaining aqueous solution was lyophilized to give pale yellow powder of 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-hydroxy-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-hydroxy-2-(2-imino-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, (0.60 g.).

reactant | 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-hydroxy-2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CC1=NN=C(S1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C=2N=C(SC2)NC(=O)OC(C)(C)CC)O)=O)=O | C22H26N6O7S4
solvent | formic acid | 25 ml | C(=O)O | CH2O2
product | 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-hydroxy-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CC1=NN=C(S1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C=2N=C(SC2)N)O)=O)=O | C16H16N6O5S4
